US04358445
To a solution of 113 g of 9β,11β-epoxy-16β-methyl-pregna-1,4-diene-17,21-diol-3,20-dione 17-propionate, prepared as described in Preparation 1, in 500 ml dry pyridine at 0° was added dropwise 75 ml of propionic anhydride and the mixture was allowed to stand at 20°-25° for 3 hr and then poured onto a mixture of ice/water/hydrochloric acid. The precipitate was collected, washed to neutrality with water, and dried under vacuum to give 122 g of 9β,11β-epoxy-16β-methyl-pregna-1,4-diene-17,21-diol-3,20-dione 17,21-dipropionate, m.p. 138°-140° C.

reactant | 9β,11β-epoxy-16β-methyl-pregna-1,4-diene-17,21-diol-3,20-dione 17-propionate | 113 g | C(CC)(=O)O[C@]1(C(CO)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]34[C@H](C[C@]12C)O4)=O)C | C25H32O6
reactant | propionic anhydride | 75 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 9β,11β-epoxy-16β-methyl-pregna-1,4-diene-17,21-diol-3,20-dione 17,21-dipropionate | 122 g | C(CC)(=O)O[C@]1(C(COC(CC)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]34[C@H](C[C@]12C)O4)=O)C | C28H36O7
